US05981754
A mixture of 2.7 g (0.030 mol) of bromoacetyl bromide, 54 ml of methylene chloride and 4 g (0.0238 mol) of diphenylmethane is cooled to 0-5° C. and 3.7 ml (0.0274 mol) of aluminum chloride are added. The mixture is stirred at room temperature for 4 hours. It is poured into a water/ice mixture and the two phases are separated. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue is taken up with isopropyl ether, the mixture is stirred and the precipitate formed is filtered off. 4.5 g of 2-(4-benzylphenyl)acetyl bromide are isolated. The resulting product is mixed with 8 ml of trifluoroacetic acid and 4.57 ml (0.048 mol) of triethylsilane. The mixture is heated at 80° C. for 4 hours and the residue is taken up with an ethyl ether/sodium bicarbonate mixture. The two phases are separated, the organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give 6.5 g of the title compound, which is purified by chromatography on a silica gel column using a 9/1 cyclohexane/ethyl acetate mixture as the eluent. The first eluted fraction, which corresponds to the title compound, is isolated.

reactant | bromoacetyl bromide | 0.030 mol, 2.7 g | BrCC(=O)Br | C2H2Br2O
reactant | diphenylmethane | 0.0238 mol, 4 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | aluminum chloride | 0.0274 mol, 3.7 ml | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 54 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-benzylphenyl)acetyl bromide | 4.5 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)Br | C15H13BrO
